US07838547B2
4-Butoxy-N-[4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenyl]benzamide
4-Butoxybenzoic acid was reacted with 4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenylamine by method E. The product with the molecular weight of 393.53 (C24H31N3O2); MS (ESI): 394 (M+H+) was obtained in this way.

reactant | 4-Butoxybenzoic acid | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | 4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenylamine | CN1CCC2N(CCC21)C2=CC=C(C=C2)N | C13H19N3
product | 4-Butoxy-N-[4-(4-methylhexahydropyrrolo[3,2-b]pyrrol-1-yl)phenyl]benzamide | C(CCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2C3C(CC2)N(CC3)C)C=C1 | C24H31N3O2
